US07157219B2
Phenylcarbonylmethyl-diphenylphosphine sulfide (PS-2).
A stirred mixture of diphenylphosphine sulfide (0.218 g, 0.001 mol) and chloroacetophenone (0.216 g, 0.0014 mol) in methylene chloride (4 ml) was cooled to 8–10° C. in an ice-water bath. Small pieces of solid potassium hydroxide (0.196 g, 0.0035 mol) were added while stirring under nitrogen atmosphere. After 45 minute, water (2 ml) was added and the organic layer was separated, washed with more water (2 ml) and dried over sodium sulfate. The solvent was removed under reduced pressure using a rotary evaporator and the oily residue was crystallized from ethyl acetate-hexane mixture to give 0.19 g (56.5%) of star shaped crystals. mp=83–84° C.

reactant | diphenylphosphine sulfide | 0.001 mol, 0.218 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)=S | C12H11PS
reactant | chloroacetophenone | 0.0014 mol, 0.216 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | potassium hydroxide | 0.0035 mol, 0.196 g | [OH-].[K+]
reactant | water | 2 ml | O | H2O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | Phenylcarbonylmethyl-diphenylphosphine sulfide | C1(=CC=CC=C1)C(=O)CP(C1=CC=CC=C1)(C1=CC=CC=C1)=S | C20H17OPS
